US04588749
N-(2-(4-Methylphenyl)-1-methylethyl)-2-hydroxy-2-(3-fluorophenyl)ethanamine
The title compound was prepared in the manner described in Example 3 replacing 2-(3-chlorophenyl)-2-hydroxyethanamine with 2-(3-fluorophenyl)-2-hydroxyethanamine. The chromatographed material was treated with methanolic fumaric acid and the derived salt recrystallised from ethyl acetate to give the title compound (fumarate), mp 58-83, as a 52-48 mixture of diastereoisomers.

reactant | 2-(3-chlorophenyl)-2-hydroxyethanamine | ClC=1C=C(C=CC1)C(CN)O | C8H10ClNO
reactant | 2-(3-fluorophenyl)-2-hydroxyethanamine | FC=1C=C(C=CC1)C(CN)O | C8H10FNO
reactant | fumaric acid | C(\C=C\C(=O)O)(=O)O | C4H4O4
product | N-(2-(4-Methylphenyl)-1-methylethyl)-2-hydroxy-2-(3-fluorophenyl)ethanamine | CC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)F)O | C18H22FNO
